US05576437
A solution of 2,6-dinitro-4-fluorotoluene (8.1 g) in ethanol (130 mL) is treated dropwise with a solution of sodium sulfide nonahydrate (16.39 g) in water (90 mL). The mixture is allowed to stir at room temperature for 2.5 hours, then diluted with water (500 mL) and extracted with ethyl acetate (4×500 mL). The combined extracts are dried over sodium sulfate and rotary evaporated. The residue is purified by flash chromatography on silica gel, eluting with 15% ethyl acetate/hexane to afford 2-amino-4-fluoro-6-nitrotoluene as a solid.

reactant | 2,6-dinitro-4-fluorotoluene | 8.1 g | [N+](=O)([O-])C1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5FN2O4
reactant | sodium sulfide nonahydrate | 16.39 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | ethanol | 130 mL | C(C)O | C2H6O
solvent | water | 90 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 2-amino-4-fluoro-6-nitrotoluene | NC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H7FN2O2
